US05552558
A. Ethyl 2-Isopropylthiazole-4-carboxylate
A solution of 2.35 g (23 retool) of 2-methylpropane-thioamide and 2.89 ml (23 mmol) of ethyl bromopyruvate in 75 ml of acetone was treated with excess MgSO4 and heated at reflux for 2.5 h. The resulting mixture was allowed to cool, filtered, and concentrated in vacuo to an oil, which was taken up in chloroform, washed sequentially with aqueous NaHCO3 and brine, dried over Na2SO4, and concentrated. The residue was purified by chromatography on silica gel using chloroform as an eluent to provide 3.96 g (86%) of the desired compound, Rf 0.21 (chloroform) as an oil. 1H NMR (CDCl3) δ1.41 (t, J=8 Hz, 3H), 1.42 (d, J=7 Hz, 6H), 3.43 (heptet, J=7 Hz, 1H), 4.41 (q, J=8 Hz, 2H), 8.05 (s, 1H). Mass spectrum: (M+H)+ =200.

reactant | 2-methylpropane-thioamide | 2.35 g | CC(C(N)=S)C | C4H9NS
reactant | ethyl bromopyruvate | 23 mmol, 2.89 ml | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | MgSO4 | [O-]S(=O)(=O)[O-].[Mg+2]
solvent | acetone | 75 ml | CC(=O)C | C3H6O
product | Ethyl 2-Isopropylthiazole-4-carboxylate | 3.96 g, 86% | C(C)(C)C=1SC=C(N1)C(=O)OCC | C9H13NO2S
